US08809371B2
Ammonium chloride (28 mg), WSC.HCl (75 mg), HOBt.H2O (60 mg), and diisopropylethylamine (180 μl) were added to a DMF (1.3 ml) suspension containing 6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)-5-fluoro-2-(isoquinoline 4-ylamino)nicotinic acid (65 mg), followed by stirring at room temperature for 3 hours. A saturated aqueous ammonium chloride solution and ethyl acetate were added to the reaction mixture. Solid matter was collected by filtration and washed with water and ethyl acetate, and a light yellow solid of tert-butyl cis-2-(5-aminocarbonyl-3-fluoro-6-(isoquinolin-4-ylamino)pyridin-2-ylamino)cyclohexylcarbamate (47 mg) was thus obtained.

reactant | Ammonium chloride | 28 mg | [Cl-].[NH4+]
reactant | WSC.HCl | 75 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 180 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)-5-fluoro-2-(isoquinoline 4-ylamino)nicotinic acid | 65 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)O)C=C1F)NC1=CN=CC2=CC=CC=C12 | C26H30FN5O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
solvent | H2O | 60 mg | O | H2O
product | tert-butyl cis-2-(5-aminocarbonyl-3-fluoro-6-(isoquinolin-4-ylamino)pyridin-2-ylamino)cyclohexylcarbamate | 47 mg | NC(=O)C=1C=C(C(=NC1NC1=CN=CC2=CC=CC=C12)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)F | C26H31FN6O3
